* Series RLC step response (underdamped: f0 ~= 1.59 kHz, zeta ~= 0.16)
* Example circuit 3: transient ringing of the capacitor voltage.
V1 in 0 PULSE(0 5 0 1u 1u 0.1 0.2)
R1 in n1 100
L1 n1 out 10m
C1 out 0 1u
.end
